### PR TITLE
[Merged by Bors] - chore: forward-port #19026

### PR DESCRIPTION
**Pull request by hrmacbeth**
Fiddly, not done yet ... help welcome.

Cross-reference: https://github.com/leanprover-community/mathlib/pull/19026.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

Working off a8b2226cfb0a79f5986492053fc49b1a0c6aeffb.

### CODE REVIEW

**Review by Parcly-Taxel — APPROVED** [review]

File: Mathlib/Analysis/SpecialFunctions/Log/Basic.lean [hunk 1]
```diff
@@ -219,6 +219,13 @@ theorem log_injOn_pos : Set.InjOn log (Set.Ioi 0) :=
   strictMonoOn_log.injOn
 #align real.log_inj_on_pos Real.log_injOn_pos
 
+theorem log_lt_sub_one_of_pos (hx1 : 0 < x) (hx2 : x ≠ 1) : log x < x - 1 := by
+  have h : log x ≠ 0
+  · rwa [← log_one, log_injOn_pos.ne_iff hx1]
+    norm_num
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecialFunctions/Log/Basic.lean:225]: Did the mathlib3 proof not work here? I'm puzzled by where the `norm_num` came from.

File: Mathlib/Data/Complex/Exponential.lean [hunk 2]
```diff
@@ -1472,27 +1472,36 @@ nonrec theorem sinh_three_mul : sinh (3 * x) = 4 * sinh x ^ 3 + 3 * sinh x := by
...
-                coe_reAddGroupHom]
-              refine' le_add_of_nonneg_of_le (sum_nonneg fun m _ => _) le_rfl
-              rw [← ofReal_pow, ← ofReal_nat_cast, ← ofReal_div, ofReal_re]
-              exact div_nonneg (pow_nonneg hx _) (Nat.cast_nonneg _)⟩)
+    (∑ i in range n, x ^ i / i !) ≤ lim (⟨_, isCauSeq_re (exp' x)⟩ : CauSeq ℝ Abs.abs) := by
+      refine' le_lim (CauSeq.le_of_exists ⟨n, fun j hj => _⟩)
+      simp only [exp', const_apply, re_sum]
+      norm_cast
+      rw [← Nat.add_sub_of_le hj, Finset.sum_range_add]
+      refine' le_add_of_nonneg_right (sum_nonneg fun i _ => _)
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Exponential.lean:1484]: IIRC, `fun i => _` doesn't actually work in `refine'`, and this needs to be 
```suggestion
      refine le_add_of_nonneg_right (sum_nonneg fun i _ => ?_)
```
in order to actually do the `intro` before positivity

**Review by eric-wieser — APPROVED** [review]
bors d+

It looks like you got all the changes here, though I agree it's a bit fiddly to check.
A few small nits about the ported proofs

File: Mathlib/Data/Complex/Exponential.lean [hunk 3]
```diff
@@ -1974,7 +1974,18 @@ theorem exp_bound_div_one_sub_of_interval' {x : ℝ} (h1 : 0 < x) (h2 : x < 1) :
...
+      rw [Finset.sum, range_val]
+      nth_rw 1 [← two_add_one_eq_three]
+      rw [← Nat.succ_eq_add_one, Multiset.range_succ, Multiset.map_cons, Multiset.sum_cons]
+      nth_rw 3 [← one_add_one_eq_two]
+      rw [← Nat.succ_eq_add_one, Multiset.range_succ, Multiset.map_cons, Multiset.sum_cons]
+      nth_rw 3 [← zero_add 1]
+      rw [← Nat.succ_eq_add_one, Multiset.range_succ, Multiset.map_cons, Multiset.sum_cons]
+      rw [Multiset.range_zero, Multiset.map_zero, Multiset.sum_zero]
+      norm_num
+      nlinarith
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Exponential.lean:1988]: Actually, we should probably work out what happened here before merging

File: Mathlib/Data/Complex/Exponential.lean (hunk 2 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Data/Complex/Exponential.lean:1484]: My understanding is that it works with refine' but not with apply

File: Mathlib/Data/Complex/Exponential.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Data/Complex/Exponential.lean:1988]: Oh, I bet we're missing [the `norm_num` plugin for big operators](https://github.com/leanprover-community/mathlib/blob/master/src/algebra/big_operators/norm_num.lean). @Vierkantor, do you know if this has been ported?

Comment (Parcly-Taxel) [reply Mathlib/Data/Complex/Exponential.lean:1988]: @eric-wieser [No.](https://leanprover-community.github.io/mathlib-port-status/file/algebra/big_operators/norm_num)

Comment (hrmacbeth) [reply Mathlib/Data/Complex/Exponential.lean:1988]: Also possible that the positivity extensions in the not-yet-merged #3907 are needed.

Comment (Vierkantor) [reply Mathlib/Data/Complex/Exponential.lean:1988]: I'd be happy to port the plugin, and actually have some ideas on how to improve the implementation, anyone willing to give me a quick course on Lean4 tactics? :)

Comment (fpvandoorn) [reply Mathlib/Data/Complex/Exponential.lean:1988]: @Vierkantor Yes, let's do that together later today

Comment (fpvandoorn) [reply Mathlib/Data/Complex/Exponential.lean:1988]: But I think we should definitely not let this PR wait for the port of the norm-num extension. We can clean up the proofs after that is done, because some porting PRs are waiting for this PR.

Comment (eric-wieser) [reply Mathlib/Data/Complex/Exponential.lean:1988]: I agree; though we should probably explain in the porting note that the old proof can be restored once we port the missing tactic.

Comment (jcommelin) [reply Mathlib/Data/Complex/Exponential.lean:1988]: What's the status here?

File: Mathlib/Data/Complex/Exponential.lean [hunk 4]
```diff
@@ -1957,67 +1966,65 @@ theorem cos_two_neg : cos 2 < 0 :=
...
-    _ ≤ x ^ 2 + x + 1 := sub_nonneg.1 <|
-      calc 0 ≤ x^2 * (2 / 9) * (9 / 4 - x) :=
-          mul_nonneg (mul_nonneg (pow_two_nonneg _) (by norm_num : (0 : ℝ) ≤ 2 / 9))
-            (sub_nonneg.2 (le_trans h2 (by norm_num)))
-        _ = _ := by ring
-    _ = _ := by simp [Finset.sum]; ring
-#align real.exp_bound_div_one_sub_of_interval_approx Real.exp_bound_div_one_sub_of_interval_approxₓ
+    exp x ≤ _ := exp_bound' h1.le h2.le zero_lt_three
+    _ ≤ 1 + x + x ^ 2 := by
+      -- Porting note: was `norm_num [Finset.sum] <;> nlinarith`
```
Comment (semorrison) [inline Mathlib/Data/Complex/Exponential.lean:1978]:
```suggestion
      -- Porting note: was `norm_num [Finset.sum] <;> nlinarith`
      -- This proof should be restored after the norm_num plugin for big operators is ported.
      -- (It may also need the positivity extensions in #3907.)
```

File: Mathlib/Analysis/SpecialFunctions/Log/Basic.lean (hunk 1 above)
Comment (semorrison) [reply Mathlib/Analysis/SpecialFunctions/Log/Basic.lean:225]: I think Heather has just improved the proof.

File: Mathlib/Data/Complex/Exponential.lean (hunk 3 above)
Comment (semorrison) [reply Mathlib/Data/Complex/Exponential.lean]: I've added the porting note. We can fix this later today when Anne is ready. :-)

**Comment by semorrison** [comment]
bors p=10

bors merge

**Comment by fpvandoorn** [comment]
bors merge

**Comment by fpvandoorn** [comment]
I'm not sure why we had to cancel the current bors batch in progress...
